2177-09-08 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2177-9-8**] 12:20 AM
   Continued on insulin gtt overnight with variability is FS and steady
   improvement in AG. Still unable to take PO
s. Will attempt this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2177-9-7**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-9-8**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-8**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 87 (87 - 118) bpm
   BP: 101/45(60) {94/37(51) - 156/80(98)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,753 mL
                                                                  1,088 mL
   PO:
             TF:
   IVF:
                                                                  2,753 mL
                                                                  1,088 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    585 mL
   Urine:
                                                                    980 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,773 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): x0, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   367 K/uL
   9.0 g/dL
   355 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   130 mEq/L
   162 mEq/L
   29.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2177-9-7**]  02:45 PM
                             [**2177-9-7**]  05:00 PM
                             [**2177-9-7**]  11:02 PM
                             [**2177-9-8**]  02:03 AM
   WBC
   5.8
   Hct
   29.8
   Plt
   367
   Cr
   1.1
   1.2
   TropT
   0.02
   Glucose
   168
   618
   195
   355
   Other labs: CK / CKMB / Troponin-T:91//0.02, Lactic Acid:3.1 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   A/P: 80 yo W with PMH of DM, HTN, dementia presents with DKA and severe
   hypernatremia with unclear precipitant.
   # DKA: Likely precipitating factors include poor PO intake and not
   receiving insulin. Unclear whether pulm infiltrate on CT abd. Bcx sent
   in ED. UA without evidence of infection. No indwelling lines to raise
   concern for skin source.
   - monitor q1hr FS
   - continue Insulin gtt, will overlap with SQ insulin since AG now
   closed
   - will start NPH 4 [**Hospital1 **] and humalog SSI
   - monitor lytes
   - started on D5W for free water and since FS is <250
   - monitor I/Os
   - levaquin for empiric tx of PNA and consider d/c if cultures negative
   # Hypernatremia: Likely secondary to dehydration from poor po intake
   and osmotic diuresis if FS have been very elevated. Sodium 174 after
   glucose correction on admission. Will not decrease serum sodium more
   than 12meq over 24hr period as increased risk of cerebral edema,
   seizures and death.
   - change fluids to D5W 80/hr
   - monitor lytes as above
   # ARF: Likely prerenal in etiology. Last cr in our system fom [**12/2175**]
   was 1
   - will send urine lytes
   - IVFs as above
   - renally dose meds
   - avoid nephrotoxins, hold ACE
   # HTN: hold antihypertensives given hypotension and renal failure
   - restart when stable, first will restart dilt
   # Changes on EKG: concern for possible ST depressions in lateral leads
   on admission, may have had a ACS event prior to admssion leading to pt
   not eating
   - will check echo today
   # Constipation: may be leading to pt not eating
   - will give enema
   - bisacodyl PO/PR
   - senna/colace
   # FEN: replete lytes prn, IVFs with D51/2NS, clears ok, zofran for
   nausea
   - if pt refusing POs will need to discuss with HCP placement of a
   feeding tube
   # PPX: heparin SC, bowel regimen
   # ACCESS: 2 PIVS
   # CODE: FULL [**First Name8 (NamePattern2) **] [**Last Name (un) 455**] house report
   #  CONTACT: Sister [**Telephone/Fax (1) 10166**], cell [**Telephone/Fax (1) 10167**]
   # DISPO: Pending clinical improvement
   ICU Care
   Nutrition: trying to start clears, but may need feeding tube
   Glycemic Control:  Insulin infusion, SSI, NPH 4 units [**Hospital1 **]
   Lines:
   20 Gauge - [**2177-9-7**] 02:00 PM
   18 Gauge - [**2177-9-7**] 11:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2177-09-08 09:32:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   80F with IDDM, HTN, dementia - lives at nursing facility, where she has
   been having poor PO intake for 1 week (without any other systemic
   signs), noted to be lethargic, with elevated FS, and transferred to
   [**Hospital1 54**] ED, where she was afebrile, mildly tachycardic, SBP 120s, FS 400
   - received IVF, started insulin gtt, had AG 36, lactate 3.9.  Cardiac
   enzymes 0.03.  CT abd/pelvis (for mild tenderness on exam) - negative.
   U/A clear.  Blood cx sent.  Received CTX/levoquin in ED.
   24 Hour Events:
 EKG - At [**2177-9-8**] 12:20 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2177-9-7**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-9-8**] 12:38 AM
   Other medications:
   Outside: ASA, dilt, ACEI, novolog 70/30 14U Qhs and RISS.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-8**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 90 (86 - 118) bpm
   BP: 102/45(57) {94/37(51) - 156/80(98)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,753 mL
                                                                  1,302 mL
   PO:
             TF:
   IVF:
                                                                  2,753 mL
                                                                  1,302 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    665 mL
   Urine:
                                                                    980 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,773 mL
                                                                    637 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GEN: More awake this am, conversant but a bit disoriented.
   HEENT: MM dry
   PULM: Clear
   CV: Reg, no M
   ABD: Winces with exam, but soft, NT
   EXT: No edema
   NEURO: Oriented to self, can choose btwn [**2166**] and [**2177**] and summer and
   winter.
   Labs / Radiology
   9.0 g/dL
   367 K/uL
   355 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   130 mEq/L
   162 mEq/L
   29.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2177-9-7**]  02:45 PM
                             [**2177-9-7**]  05:00 PM
                             [**2177-9-7**]  11:02 PM
                             [**2177-9-8**]  02:03 AM
   WBC
   5.8
   Hct
   29.8
   Plt
   367
   Cr
   1.1
   1.2
   TropT
   0.02
   Glucose
   168
   618
   195
   355
   Other labs: CK / CKMB / Troponin-T:91//0.02, Lactic Acid:3.1 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA): Gap closed.
   - Inciting events unclear - no clear infectious source, no evidence
   ischemia (troponins stable 0.03, 0.02)
 although possibility of prior
   event, checking TTE
 suspect severe constipation possible underlying
   major cause.
   - Overlap insulin gtt with SC regimen.
   Constipation
 aggressive bowel regimen.
   Hypernatremia: slowly improving, 174--> 162:  Recalculated free H2o
   deficit 3.4 L --> 85 cc/h D5w
   - Frequent lyte checks.
   ARF:  Renal failure improving with IVF, holding nephrotoxic meds.
   HTN:  As BP improves, can add back agents.
   Nutrition:  Hopefully will feel like eating post-BM, otherwise will
   need to consider NGT.
   ICU Care
   Nutrition:  Will advance diet today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-9-7**] 02:00 PM
   18 Gauge - [**2177-9-7**] 11:05 PM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code per NH
 awaiting to clarify HCP.
   Disposition : will keep in ICU till sugars stable on insulin transition
   and sodium coming down
   Total time spent:  25 mins

2177-09-09 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2177-9-8**] 11:31 AM
   - gave enemas and suppository without relief
   - gave D5W to correct Na
   - trasitioned from insulin gtt to SSI
   - gap closed
   - emesis with apple sauce
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-9-9**] 12:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-9**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 73 (72 - 98) bpm
   BP: 105/50(62) {94/33(47) - 120/80(86)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,770 mL
                                                                    871 mL
   PO:
             TF:
   IVF:
                                                                  2,770 mL
                                                                    871 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    320 mL
   Urine:
                                                                  1,885 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    551 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   323 K/uL
   8.2 g/dL
   104 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   21 mg/dL
   125 mEq/L
   158 mEq/L
   26.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2177-9-7**]  02:45 PM
                             [**2177-9-7**]  05:00 PM
                             [**2177-9-7**]  11:02 PM
                             [**2177-9-8**]  02:03 AM
                             [**2177-9-8**]  12:03 PM
                             [**2177-9-8**]  04:50 PM
                             [**2177-9-9**]  02:06 AM
   WBC
   5.8
   7.0
   6.9
   5.6
   Hct
   29.8
   30.6
   31.2
   26.7
   Plt
   367
   349
   328
   323
   Cr
   1.1
   1.2
   1.2
   1.1
   1.0
   TropT
   0.02
   Glucose
   168
   618
   195
   355
   276
   80
   104
   Other labs: CK / CKMB / Troponin-T:91//0.02, Lactic Acid:3.1 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**2177-9-7**]  MRSA SCREEN-PENDING
   [**2177-9-7**]  BLOOD CULTURE -PENDING
   [**2177-9-7**]  BLOOD CULTURE-PENDING
   [**2177-9-7**]  URINE Culture- NO Growth
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   A/P: 80 yo W with PMH of DM, HTN, dementia presents with DKA and severe
   hypernatremia with unclear precipitant.
   # DKA: Likely precipitating factors include poor PO intake and not
   receiving insulin. Unclear whether pulm infiltrate on CT abd. Bcx sent
   in ED. UA without evidence of infection. No indwelling lines to raise
   concern for skin source.
   - monitor q1hr FS
   - continue Insulin gtt, will overlap with SQ insulin since AG now
   closed
   - will start NPH 4 [**Hospital1 **] and humalog SSI
   - monitor lytes
   - started on D5W for free water and since FS is <250
   - monitor I/Os
   - levaquin for empiric tx of PNA and consider d/c if cultures negative
   # Hypernatremia: Likely secondary to dehydration from poor po intake
   and osmotic diuresis if FS have been very elevated. Sodium 174 after
   glucose correction on admission. Will not decrease serum sodium more
   than 12meq over 24hr period as increased risk of cerebral edema,
   seizures and death.
   - change fluids to D5W 80/hr
   - monitor lytes as above
   # ARF: Likely prerenal in etiology. Last cr in our system fom [**12/2175**]
   was 1
   - will send urine lytes
   - IVFs as above
   - renally dose meds
   - avoid nephrotoxins, hold ACE
   # HTN: hold antihypertensives given hypotension and renal failure
   - restart when stable, first will restart dilt
   # Changes on EKG: concern for possible ST depressions in lateral leads
   on admission, may have had a ACS event prior to admssion leading to pt
   not eating
   - will check echo today
   # Constipation: may be leading to pt not eating
   - will give enema
   - bisacodyl PO/PR
   - senna/colace
   # FEN: replete lytes prn, IVFs with D51/2NS, clears ok, zofran for
   nausea
   - if pt refusing POs will need to discuss with HCP placement of a
   feeding tube
   # PPX: heparin SC, bowel regimen
   # ACCESS: 2 PIVS
   # CODE: FULL [**First Name8 (NamePattern2) **] [**Last Name (un) 455**] house report
   #  CONTACT: Sister [**Telephone/Fax (1) 10166**], cell [**Telephone/Fax (1) 10167**]
   # DISPO: Pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2177-9-7**] 11:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2177-09-09 12:10:00 Physician Attending Progress Note
Chief Complaint: hyperglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Enema and suppositories with small hard stools. Transitioned off
   insulin drip, gap closed. Emesis with apple sauce, not able to tolerate
   pos.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-9-9**] 12:44 AM
   Other medications:
   d5 80, heparin, colace/senna refusing, 4U NPH [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-9**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 77 (72 - 98) bpm
   BP: 107/45(60) {94/33(47) - 124/80(86)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,770 mL
                                                                  1,449 mL
   PO:
             TF:
   IVF:
                                                                  2,770 mL
                                                                  1,449 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    780 mL
   Urine:
                                                                  1,885 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    669 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   323 K/uL
   239
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   21 mg/dL
   125 mEq/L
   158 mEq/L
   26.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2177-9-7**]  02:45 PM
                             [**2177-9-7**]  05:00 PM
                             [**2177-9-7**]  11:02 PM
                             [**2177-9-8**]  02:03 AM
                             [**2177-9-8**]  12:03 PM
                             [**2177-9-8**]  04:50 PM
                             [**2177-9-9**]  02:06 AM
                             [**2177-9-9**]  08:00 AM
                             [**2177-9-9**]  09:00 AM
   WBC
   5.8
   7.0
   6.9
   5.6
   Hct
   29.8
   30.6
   31.2
   26.7
   Plt
   367
   349
   328
   323
   Cr
   1.1
   1.2
   1.2
   1.1
   1.0
   TropT
   0.02
   Glucose
   168
   618
   195
   355
   [**Telephone/Fax (2) 10182**]0
   239
   Other labs: CK / CKMB / Troponin-T:91//0.02, Lactic Acid:3.1 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Microbiology: NGTD.
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
   ? related to poor po from constipation. no other signs of infection,
   advance insulin to home diabetic regimen, advance diet as tolerated.
   will d/c levaquin if cultures remain negative. Continue D5W to slowly
   correct hypernatremia. Will follow up echo due to borderline positive
   cardiac enzymes. Contact outpatient PCP.
[**Name Initial (NameIs) 10183**]:
   continue with po bowel regimen.
Hct drop:
   Check a pm hct
   ICU Care
   Nutrition:
   Comments: advance diet as tolerated
   Glycemic Control:  Regular insulin sliding scale, Comments: + NPH
   insulin
   Lines:
   18 Gauge - [**2177-9-7**] 11:05 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is ill but improving